US08426437B2
9 mg (0.04 mmol) of 3-bromo-N-tert-butoxycarbonyl-propylamine and 8 mg (0.06 mmol) of potassium carbonate are added to a solution of 21 mg (0.05 mmol) of 8-[(4-fluorophenyl)-methyl-sulfamoyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid dissolved in 0.5 mL of dimethylformamide. The reaction mixture is stirred for 18 hours at room temperature then the solvents are evaporated. The residue is purified by chromatography on silica (eluent cyclohexane/ethyl acetate 2/8) then triturated in diethyl ether to give 6 mg (21%) of 3-tert-butoxycarbonylamino-propyl 8-[(4-fluorophenyl)-methyl-sulfamoyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylate in the form of a white solid.

reactant | 3-bromo-N-tert-butoxycarbonyl-propylamine | 0.04 mmol, 9 mg | BrCCCNC(=O)OC(C)(C)C | C8H16BrNO2
reactant | potassium carbonate | 0.06 mmol, 8 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 8-[(4-fluorophenyl)-methyl-sulfamoyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.05 mmol, 21 mg | FC1=CC=C(C=C1)N(S(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O)C | C19H14FN3O5S
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 3-tert-butoxycarbonylamino-propyl 8-[(4-fluorophenyl)-methyl-sulfamoyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylate | 6 mg, 21% | FC1=CC=C(C=C1)N(S(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)OCCCNC(=O)OC(C)(C)C)C | C27H29FN4O7S
